US07087604B2
±(1S*,2R*,4R*)-[4-Azido-2-(4-methylsulfanyl-benzenesulfonylmethyl)-cyclohexyl]-carbamic acid tert-butyl ester, from Example (55d) (389 mg) was dissolved in THF (3 ml) and cooled to −78° C. prior to the slow addition of a solution of 0.5M KHMDS in THF (2.65 ml). After 20 min, Me2SO4 (0.15 ml) was added. The reaction was warmed to rt and stirred for 2 h before the solution was quenched with sat. NH4Cl. This was extracted twice with EtOAc. The combined organic layer was dried, filtered, and concentrated. Flash chromatography of the resulting residue gave ±(1S*,2R*,4R*)-[4-azido-2-(4-methylsulfanyl-benzenesulfonylmethyl)-cyclohexyl]-methyl-carbamic acid tert-butyl ester (207 mg): 1H NMR (CDCl3, δppm, 300 mHz) 1.39 (s, 9H), 1.55-1.93 (m, 4H), 2.00 (m, 1H), 2.52 (s, 3H), 2.65 (m, 1H), 2.80 (s, 3H), 3.00 (m, 2H), 3.81 (m, 3H), 7.34 (d, 2H), 7.80 (d, 2H).

reactant | (1S*,2R*,4R*)-[4-Azido-2-(4-methylsulfanyl-benzenesulfonylmethyl)-cyclohexyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1[C@@H](C[C@@H](CC1)N=[N+]=[N-])CS(=O)(=O)C1=CC=C(C=C1)SC)=O | C19H28N4O4S2
reactant | KHMDS | 0.5M | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | Me2SO4 | 0.15 ml | COS(=O)(=O)OC | C2H6O4S
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | THF | 2.65 ml | C1CCOC1 | C4H8O
product | (1S*,2R*,4R*)-[4-azido-2-(4-methylsulfanyl-benzenesulfonylmethyl)-cyclohexyl]-methyl-carbamic acid tert-butyl ester | 207 mg | C(C)(C)(C)OC(N(C)[C@@H]1[C@@H](C[C@@H](CC1)N=[N+]=[N-])CS(=O)(=O)C1=CC=C(C=C1)SC)=O | C20H30N4O4S2
